US03989681
Preparation of 5-(2-chlorophenyl)-1,3-dihydro-7-hydroxyamino-1-methoxymethyl-2H-1,4-benzodiazepin-2-one
A mixture of 3.6 g. (0.01 mol) of 5-(2-chlorophenyl)-1,3-dihydro-1-methoxymethyl-7-nitro-2H-1,4-benzodiazepin-2-one, 100 ml. of tetrahydrofuran, 50 ml. of methanol, 13.6 g. of sodium acetate trihydrate and 11.25 g. of stannous chloride dihydrate was stirred under nitrogen for 5 hours. 500 ml. of methylene chloride and 10 ml. of concentrated ammonia was added. The inorganic material was separated by filtration. The filtrate was washed with 1N sodium hydroxide solution, dried over sodium sulfate and evaporated. Crystallization of the residue from methylene chloride/ether gave light yellow product with m.p. 205°-208° dec. For analysis it was recrystallized from 2 -propanol/tetrahydrofuran.

reactant | 5-(2-chlorophenyl)-1,3-dihydro-1-methoxymethyl-7-nitro-2H-1,4-benzodiazepin-2-one | 0.01 mol | ClC1=C(C=CC=C1)C1=NCC(N(C2=C1C=C(C=C2)[N+](=O)[O-])COC)=O | C17H14ClN3O4
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | sodium acetate trihydrate | O.O.O.C(C)(=O)[O-].[Na+]
reactant | ammonia | N | H3N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methanol | CO | CH4O
product | 5-(2-chlorophenyl)-1,3-dihydro-7-hydroxyamino-1-methoxymethyl-2H-1,4-benzodiazepin-2-one | ClC1=C(C=CC=C1)C1=NCC(N(C2=C1C=C(C=C2)NO)COC)=O | C17H16ClN3O3
